US05834401
To a solution of methyl 2-[N-(2-oxopropyl)thiophene-3-yl-acetylamino]isobutyrate (7.6 g) in absolute ethanol (50 mL) was added 95% sodium methoxide (1.6 g), and the mixture was heated at reflux for 30 minutes. To the solution were added water (3.5 mL) and 85% potassium hydroxide (0.88 g), and the mixture was heated at reflux for 1 hour. After distilling off the solvent, the residue was poured into ice-water and washed with diethyl ether. It was adjusted to pH 2-3 with concentrated hydrochloric acid and the precipitated crystals were filtered, washed with water and dried to give 4.47 g of 2-[4-methyl-2-oxo-3-(thiophen-3-yl)-3-pyrrolin-1-yl]isobutyric acid.

reactant | methyl 2-[N-(2-oxopropyl)thiophene-3-yl-acetylamino]isobutyrate | 7.6 g | O=C(CN(C(C(=O)OC)(C)C)C(CC1=CSC=C1)=O)C | C14H19NO4S
reactant | sodium methoxide | 1.6 g | C[O-].[Na+]
reactant | water | 3.5 mL | O | H2O
reactant | potassium hydroxide | 0.88 g | [OH-].[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-[4-methyl-2-oxo-3-(thiophen-3-yl)-3-pyrrolin-1-yl]isobutyric acid | 4.47 g | CC1=C(C(N(C1)C(C(=O)O)(C)C)=O)C1=CSC=C1 | C13H15NO3S
